US07919498B2
3-(4-Amino-1-((8-methyl-2-o-tolylquinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol
Prepared according to Procedure J. A mixture of 3-iodo-1-((8-methyl-2-o-tolylquinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (51 mg, 0.1 mmol), 3-hydroxyphenylboronic acid (15.2 mg, 1.1 eq), sodium carbonate (55 mg, 5 eq), tetrakis(triphenylphosphine)palladium (6 mg, 5% mmol) in DMF (1 mL) and water (0.3 mL) was heated to 100° C. under N2 for 4 h. The reaction mixture was cooled to room temperature, filtered and purified by reverse HPLC (MeCN/H2O/0.1% TFA) on C18 to give a white solid [PI3Kδ IC50=7 nM]. 1H-NMR (DMSO-d6) δ 8.37 (s, 1H), 8.35 (s, 1H), 7.86 (d, J=8.2 Hz, 1H), 7.65 (d, J=7.0 Hz, 1H), 7.53 (t, J=7.4 Hz, 1H), 7.31 (t, J=7.8 Hz, 1H), 7.14-7.17 (m, 4H), 6.87-6.97 (m, 4H), 5.63 (s, br, 2H), 2.63 (s, 3H), 1.91 (s, 3H). Mass Spectrum (ESI) m/e=473 (M+1).

reactant | 3-iodo-1-((8-methyl-2-o-tolylquinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.1 mmol, 51 mg | IC1=NN(C2=NC=NC(=C21)N)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)C | C23H19IN6
reactant | 3-hydroxyphenylboronic acid | 15.2 mg, 1.1 eq | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | 55 mg, 5 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 0.3 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-Amino-1-((8-methyl-2-o-tolylquinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | NC1=C2C(=NC=N1)N(N=C2C=2C=C(C=CC2)O)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)C | C29H24N6O
